US08242280B2
To a mixture of 3-(2-methoxy-phenyl)-5-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-1-(toluene-4-sulfonyl)-1H-pyrrolo[2,3-b]pyridine (504 mg, 1 mmol) and 3-(3-bromo-phenyl)-3-(1,1-dioxothiomorpholin-4-yl)-propionic acid (362 mg, 1.0 mmol) in a 20 mL microwave reaction flask was added THF (3 mL), acetonitrile (3 mL) and sodium carbonate (3 mL, 1 N aqueous solution, 3 mmol). The mixture was purged with nitrogen for 1 minute. Dichloro[1,1′-bis(diphenylphoshino)ferrocene]palladium(II) dichloromethane adduct (82 mg, 0.1 mol) was added and the purging continued for another minute. The flask was sealed and irradiated in a microwave reactor to 135° C. for 20 minutes. Saturated sodium chloride (10 mL) was added and the pH was adjusted to 5 using hydrochloric acid (1 N). The resulting mixture was extracted with ethyl acetate (10 mL×3). The combined organic layers were dried over sodium sulfate, filtered, and concentrated. The residue was purified by flash chromatography on silica gel using a gradient of methanol in dichloromethane to afford 3-(1,1-dioxothiomorpholin-4-yl)-3-{3-[3-(2-methoxy-phenyl)-1-(toluene-4-sulfonyl)-1H-pyrrolo[2,3-b]pyridin-5-yl]-phenyl}-propionic acid as a yellow solid (353 mg, 53% yield). MS: m/z 660 (M+H+).

reactant | 3-(2-methoxy-phenyl)-5-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-1-(toluene-4-sulfonyl)-1H-pyrrolo[2,3-b]pyridine | 1 mmol, 504 mg | COC1=C(C=CC=C1)C1=CN(C2=NC=C(C=C21)B2OC(C(O2)(C)C)(C)C)S(=O)(=O)C2=CC=C(C=C2)C | C27H29BN2O5S
reactant | 3-(3-bromo-phenyl)-3-(1,1-dioxothiomorpholin-4-yl)-propionic acid | 1.0 mmol, 362 mg | BrC=1C=C(C=CC1)C(CC(=O)O)N1CCS(CC1)(=O)=O | C13H16BrNO4S
reactant | sodium carbonate | 3 mmol, 1 N, 3 mL | C([O-])([O-])=O.[Na+].[Na+]
reactant | sodium chloride | 10 mL | [Cl-].[Na+]
reactant | hydrochloric acid | 1 N | Cl | ClH
catalyst | Dichloro[1,1′-bis(diphenylphoshino)ferrocene]palladium(II) dichloromethane adduct | 0.1 mol, 82 mg | C1=CC=C(C=C1)[PH+](C2=CC=CC=C2)[C]3[CH][CH][CH][CH]3.C1=CC=C(C=C1)[PH+](C2=CC=CC=C2)[C]3[CH][CH][CH][CH]3.C(Cl)Cl.Cl[Pd]Cl.[Fe]
solvent | acetonitrile | 3 mL | C(C)#N | C2H3N
solvent | THF | 3 mL | C1CCOC1 | C4H8O
product | 3-(1,1-dioxothiomorpholin-4-yl)-3-{3-[3-(2-methoxy-phenyl)-1-(toluene-4-sulfonyl)-1H-pyrrolo[2,3-b]pyridin-5-yl]-phenyl}-propionic acid | 353 mg, 53% yield | O=S1(CCN(CC1)C(CC(=O)O)C1=CC(=CC=C1)C=1C=C2C(=NC1)N(C=C2C2=C(C=CC=C2)OC)S(=O)(=O)C2=CC=C(C=C2)C)=O | C34H33N3O7S2
